* NGSPICE file created from 2OTA.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_01v8_Z6Q36G B D S G VSUBS
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.435 pd=3.58 as=0.435 ps=3.58 w=1.5 l=1
C0 D B 0.125f
C1 S B 0.125f
C2 G B 0.33037f
C3 D S 0.08289f
C4 D G 0.03749f
C5 S G 0.03749f
C6 S VSUBS 0.08679f
C7 D VSUBS 0.08679f
C8 G VSUBS 0.25845f
C9 B VSUBS 1.58955f
.ends

.subckt sky130_fd_pr__nfet_01v8_59R9RF B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.435 pd=3.58 as=0.435 ps=3.58 w=1.5 l=1
C0 G S 0.03749f
C1 D S 0.08289f
C2 G D 0.03749f
C3 S B 0.21204f
C4 D B 0.21204f
C5 G B 0.5785f
.ends

.subckt sky130_fd_pr__nfet_01v8_GHSHTY B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.435 pd=3.58 as=0.435 ps=3.58 w=1.5 l=1
C0 D S 0.08289f
C1 G D 0.03749f
C2 G S 0.03749f
C3 S B 0.20879f
C4 D B 0.20879f
C5 G B 0.54986f
.ends

.subckt sky130_fd_pr__pfet_01v8_Y643G8 B D0 G0 S1 G1 D2 G2 S3 G3 a_487_n886# VSUBS
X0 D2 G1 S1 B sky130_fd_pr__pfet_01v8 ad=1.2325 pd=8.79 as=1.2325 ps=8.79 w=8.5 l=1
X1 S3 G2 D2 B sky130_fd_pr__pfet_01v8 ad=1.2325 pd=8.79 as=1.2325 ps=8.79 w=8.5 l=1
X2 S1 G0 D0 B sky130_fd_pr__pfet_01v8 ad=1.2325 pd=8.79 as=2.465 ps=17.58 w=8.5 l=1
X3 a_487_n886# G3 S3 B sky130_fd_pr__pfet_01v8 ad=2.465 pd=17.58 as=1.2325 ps=8.79 w=8.5 l=1
C0 D0 S1 0.46486f
C1 B S1 0.02835f
C2 G3 G2 0.0619f
C3 B G1 0.26741f
C4 a_487_n886# S3 0.46486f
C5 G2 D2 0.18709f
C6 G1 S1 0.18709f
C7 B S3 0.02835f
C8 G3 a_487_n886# 0.18709f
C9 G3 B 0.29387f
C10 G2 B 0.26741f
C11 B D2 0.02835f
C12 D0 G0 0.18709f
C13 G2 G1 0.0619f
C14 B G0 0.29387f
C15 D2 S1 0.46486f
C16 G1 D2 0.18709f
C17 G3 S3 0.18709f
C18 G0 S1 0.18709f
C19 G1 G0 0.0619f
C20 G2 S3 0.18709f
C21 a_487_n886# B 0.57037f
C22 D2 S3 0.46486f
C23 D0 B 0.57037f
C24 S3 VSUBS 0.24229f
C25 D2 VSUBS 0.24229f
C26 S1 VSUBS 0.24229f
C27 D0 VSUBS 0.43978f
C28 G3 VSUBS 0.24826f
C29 G2 VSUBS 0.23206f
C30 G1 VSUBS 0.23206f
C31 G0 VSUBS 0.24826f
C32 B VSUBS 9.63165f
C33 a_487_n886# VSUBS 0.43978f
.ends

.subckt sky130_fd_pr__nfet_01v8_NJE3FD B D0 G0 S1 G1 a_229_n619#
X0 S1 G0 D0 B sky130_fd_pr__nfet_01v8 ad=0.9425 pd=6.79 as=1.885 ps=13.58 w=6.5 l=1
X1 a_229_n619# G1 S1 B sky130_fd_pr__nfet_01v8 ad=1.885 pd=13.58 as=0.9425 ps=6.79 w=6.5 l=1
C0 G0 S1 0.14435f
C1 G0 G1 0.05942f
C2 G1 S1 0.14435f
C3 a_229_n619# S1 0.35573f
C4 G0 D0 0.14435f
C5 S1 D0 0.35573f
C6 G1 a_229_n619# 0.14435f
C7 S1 B 0.21619f
C8 D0 B 0.78261f
C9 G1 B 0.53248f
C10 G0 B 0.53248f
C11 a_229_n619# B 0.78261f
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_EWHW6L C2 C1 VSUBS
X0 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5
X1 C1 C2 sky130_fd_pr__cap_mim_m3_1 l=7.5 w=7.5
C0 C1 C2 11.391f
C1 C1 VSUBS 1.30059f
C2 C2 VSUBS 4.96609f
.ends

.subckt x2OTA vdd plus out minus ibias vss
XXM1 vdd XM3/D vdd XM3/D vss sky130_fd_pr__pfet_01v8_Z6Q36G
XXM3 vss XM3/D XM4/S minus sky130_fd_pr__nfet_01v8_59R9RF
XXM4 vss XM4/D XM4/S plus sky130_fd_pr__nfet_01v8_59R9RF
XXM5 vss ibias vss ibias sky130_fd_pr__nfet_01v8_GHSHTY
Xsky130_fd_pr__nfet_01v8_GHSHTY_0 vss XM4/S vss ibias sky130_fd_pr__nfet_01v8_GHSHTY
XXM7 vdd out XM4/D vdd XM4/D out XM4/D vdd XM4/D out vss sky130_fd_pr__pfet_01v8_Y643G8
XXM8 vss out ibias vss ibias out sky130_fd_pr__nfet_01v8_NJE3FD
XXC1 XM4/D out vss sky130_fd_pr__cap_mim_m3_1_EWHW6L
XXC2 XM4/D out vss sky130_fd_pr__cap_mim_m3_1_EWHW6L
Xsky130_fd_pr__pfet_01v8_Z6Q36G_0 vdd XM4/D vdd XM3/D vss sky130_fd_pr__pfet_01v8_Z6Q36G
C0 XM4/D plus 0.67664f
C1 XM4/D XM4/S 0.44107f
C2 vdd minus 0
C3 ibias plus 0.05126f
C4 ibias XM4/S 0.11163f
C5 vdd plus 0.02031f
C6 vdd XM4/S 0.01114f
C7 XM3/D out 0.06156f
C8 XM3/D minus 0.05353f
C9 out minus 0.01114f
C10 ibias XM4/D 0.76096f
C11 plus XM3/D 0.00231f
C12 XM4/S XM3/D 0.05971f
C13 vdd XM4/D 1.79937f
C14 plus out 0.8761f
C15 XM4/S out 0.01406f
C16 vdd ibias 0.00556f
C17 plus minus 0.01011f
C18 XM4/S minus 0.06292f
C19 XM4/S plus 0.19055f
C20 XM4/D XM3/D 0.29508f
C21 XM4/D out 2.73798f
C22 ibias XM3/D 0.00344f
C23 ibias out 0.21893f
C24 vdd XM3/D 0.96016f
C25 XM4/D minus 0.58843f
C26 vdd out 3.50623f
C27 ibias minus 0.01693f
C28 XM4/D vss 14.14791f
C29 out vss 10.01075f
C30 vdd vss 18.22244f
C31 XM4/S vss 2.18895f
C32 ibias vss 5.85387f
C33 plus vss 1.22308f
C34 XM3/D vss 1.5983f
C35 minus vss 2.07489f
.ends

